US06452014B1
A mixture of 5,6-dichlorobenzimidazole (94 mg, 0.50 mmol), 4-fluorobenzaldehyde (0.064 mL, 0.60 mmol), and potassium carbonate (83 mg, 0.60 mmol) in dimethylsulfoxide (3 mL) was heated at 100° C. for 3 h. The mixture was cooled to room temperature, and water was added. The precipitated product was collected by filtration and washed with water and ethanol to afford 5,6-dicloro-1-(4-formylphenyl)benzimidazole (90 mg, 62%).

reactant | 5,6-dichlorobenzimidazole | 0.50 mmol, 94 mg | ClC1=CC2=C(N=CN2)C=C1Cl | C7H4Cl2N2
reactant | 4-fluorobenzaldehyde | 0.60 mmol, 0.064 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | potassium carbonate | 0.60 mmol, 83 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylsulfoxide | 3 mL | CS(=O)C | C2H6OS
product | 5,6-dicloro-1-(4-formylphenyl)benzimidazole | 90 mg, 62% | ClC1=CC2=C(N(C=N2)C2=CC=C(C=C2)C=O)C=C1Cl | C14H8Cl2N2O
